US04002640
2.42 G. 1-acetamido-2-nitro-4-benzylthiobenzene in 25 ml. chloroform is treated at -20 to -15° C with 1.6 g. 40% peracetic acid in 2 ml. methanol. The mixture is allowed to warm slowly to room temperature, held for 6 hours and washed with sodium bisulfite solution and sodium bicarbonate solution, dried and stripped. The residue is recrystallized from methanol giving 1-acetamido-2-nitro-4-benzylsulfinylbenzene. 2.14 G. 1-acetamido-2-nitro-4-benzylsulfinylbenzene is treated with 4 ml. 5N sodium hydroxide and 12 ml. methanol, on steam bath for 30 minutes, diluted with water, and filtered to give 1-amino-2-nitro-4-benzylsulfinylbenzene.

reactant | 1-acetamido-2-nitro-4-benzylsulfinylbenzene | C(C)(=O)NC1=C(C=C(C=C1)S(=O)CC1=CC=CC=C1)[N+](=O)[O-] | C15H14N2O4S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-amino-2-nitro-4-benzylsulfinylbenzene | NC1=C(C=C(C=C1)S(=O)CC1=CC=CC=C1)[N+](=O)[O-] | C13H12N2O3S
